US06130187
Preparation of 3-(4-chloro-2-ethylcarbamoylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil (Compound No. 248)
10 ml of thionyl chloride was added to 0.37 g (0.96 mmol) of 3-(2-carboxy-4-chlorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil, followed by stirring for 3 hours under heating and refluxing. After completion of the reaction, thionyl chloride was distilled off under reduced pressure. The obtained residue was dissolved in 20 ml of tetrahydrofuran. To this solution, 0.24 g (3.84 mmol) of ethylamine (70% aqueous solution) was added, followed by stirring for 10 minutes at room temperature. After completion of the reaction, the reaction solution was poured into water, and precipitated crystals were collected by filtration to obtain 0.31 g (yield: 78.3%) of the desired product as white crystals. Melting point: 225-226° C.

reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 3-(2-carboxy-4-chlorobenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 0.96 mmol, 0.37 g | C(=O)(O)C=1OC2=C(C1)C(=CC=C2N2C(N(C(=CC2=O)C(F)(F)F)C)=O)Cl | C15H8ClF3N2O5
reactant | ethylamine | 3.84 mmol, 0.24 g | C(C)N | C2H7N
solvent | water | O | H2O
product | 3-(4-chloro-2-ethylcarbamoylbenzofuran-7-yl)-1-methyl-6-trifluoromethyluracil | 0.31 g, yield: 78.3% | ClC1=CC=C(C2=C1C=C(O2)C(NCC)=O)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C17H13ClF3N3O4
